US05234818
3-Amino-2-chloropyrazolo[1,5-a]pyridine hydrochloride
2-Aminopyrazolo[1,4-a]pyridine (see Chem. Parm. Bull., 21, 2146/1973) is reacted with p-methoxybenzene diazonium salt analogously to Example 13.2. 0.53 g of the 3-azo compound obtained is suspended in 10 ml. 6N hydrochloric acid and mixed at +5° C., while stirring, with a solution of 104 mg. sodium nitrite in 0.2 ml. water. After 30 minutes, a cold solution of 198 mg. cuprous chloride in 6 ml. 6N hydrochloric acid is added thereto and the reaction mixture is stirred for 40 hours at ambient temperature. The mixture is mixed with water and extracted three or four times with ethyl acetate. After purification of the crude product by chromatography over silica gel (elution agent: ethyl acetate/ligroin 1:1 v/v), there are obtained 320 mg. of 2-chloro-3-(p-methoxyphenylazo)pyrazolo[1,5-a]pyridine (Rf =0.65; silica gel, ethyl acetate/ligroin 1:1 v/v) which is reduced with sodium dithionite analogously to Example 10.3. There is obtained the title compound; m.p. 249°-251° C. (decomp.). Rf =0.2 (silica gel, ethyl acetate/ligroin 1:1 v/v).

reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 2-chloro-3-(p-methoxyphenylazo)pyrazolo[1,5-a]pyridine | ClC1=NN2C(C=CC=C2)=C1N=NC1=CC=C(C=C1)OC | C14H11ClN4O
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 3-Amino-2-chloropyrazolo[1,5-a]pyridine hydrochloride | Cl.NC=1C(=NN2C1C=CC=C2)Cl | InChI=1S/C7H6ClN3.ClH/c8-7-6(9)5-3-1-2-4-11(5)10-7;/h1-4H,9H2;1H
